US04297129
3,5-Dioxo-2,3,4,5-tetrahydro-1,2,4-triazine (1 g) and 2-t-butoxytetrahydrofuran (1.9 g) are dissolved in dimethylformamide (3 ml), and the mixture is stirred at 160°-165° C. for 5 hours. The dimethylformamide is removed in vacuo from the reaction mixture to give the residue. The residue is column-chromatographed over silica gel using a mixture of acetone/n-hexane (1/3) as an eluent. The first major fraction gives 2,4-bis(tetrahydro-2-furanyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine (Compound No. 85) (yield, 0.2 g; 12%), the second gives 3,5-dioxo-4-(tetrahydro-2-furanyl)-2,3,4,5-tetrahydro-1,2,4-triazine (Compound No. 86) (yield, 0.6 g; 36%) and the third gives 2-(tetrahydro-2-furanyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine (Compound No. 101) (yield, 0.4 g; 24%). Compound Nos. 85 and 86 melt at 67°-68° C. and 87° C., respectively.

reactant | 3,5-Dioxo-2,3,4,5-tetrahydro-1,2,4-triazine | 1 g | O=C1NN=CC(N1)=O | C3H3N3O2
reactant | 2-t-butoxytetrahydrofuran | 1.9 g | C(C)(C)(C)OC1OCCC1 | C8H16O2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2,4-bis(tetrahydro-2-furanyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine | 0.2 g, 12% | O1C(CCC1)N1N=CC(N(C1=O)C1OCCC1)=O | C11H15N3O4
